US06262103B1
6,6-Dimethyl-3-methylthio-1-(3-methyl-1,2,4-oxadiazol-5-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
To a solution of 6,6-dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one-1-carboxylic acid (1.0 g, 3.7 mmol) in dioxan (90 mL) was added carbonyldiimidazole (0.6 g, 3.7 mmol) and the mixture stirred at 20° C. for 30 min. Acetamide oxime (0.41 g, 5.5 mmol) was added and the mixture was heated at 100° C. for 48 h. The solution was evaporated to dryness and the residue was purified by chromatographed on silica gel, eluting with ethyl acetate:hexane (2:3) to yield the title compound as a pale yellow solid (0.1 g, 9%). mp 177-180° C. Found: C, 54.90; H, 5.05; N, 8.71%. C14H16N2O2S2 requires: C, 54.52; H, 5.23; N, 9.08%. 1HNMR (250 MHz, CDCl3) δ 1.11 (6H, s), 2.45-2.47 (5H, m), 2.65 (3H, s), 3.11 (2H, s). MS (ES+) 309 (M+1).

reactant | 6,6-dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one-1-carboxylic acid | 3.7 mmol, 1.0 g | CC1(CC(C=2C(=C(SC2SC)C(=O)O)C1)=O)C | C12H14O3S2
reactant | carbonyldiimidazole | 3.7 mmol, 0.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Acetamide oxime | 5.5 mmol, 0.41 g | C(C)(N)=NO | C2H6N2O
solvent | dioxan | 90 mL | O1CCOCC1 | C4H8O2
product | 6,6-Dimethyl-3-methylthio-1-(3-methyl-1,2,4-oxadiazol-5-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 0.1 g, 9% | CC1(CC(C=2C(=C(SC2SC)C2=NC(=NO2)C)C1)=O)C | C14H16N2O2S2
